US09126981B2
Synthesis of 2,2-diethoxy-N-(pyridin-4-ylmethyl)ethanamine (Compound IX-15)
According to the procedure described in the synthesis method of Compound IX-2, 2,2-diethoxyethanamine (162.8 ml, 1120 mmol) was reacted with 4-pyridinecarboxaldehyde (120 g, 1120 mmol) and the obtained residue was purified by silica gel column chromatography (eluent: ethyl acetate and ethyl acetate:ethanol=15:1) to obtain the title compound (110 g, 44%).

reactant | 2,2-diethoxyethanamine | 1120 mmol, 162.8 ml | C(C)OC(CN)OCC | C6H15NO2
reactant | 4-pyridinecarboxaldehyde | 1120 mmol, 120 g | N1=CC=C(C=C1)C=O | C6H5NO
product | 2,2-diethoxy-N-(pyridin-4-ylmethyl)ethanamine | 110 g, 44% | C(C)OC(CNCC1=CC=NC=C1)OCC | C12H20N2O2
